US06194447B1
N-(4-Dimethylaminobenzyl)-2-nitro-4-trifluoromethylaniline.
A mixture of 4-chloro-3-nitrobenzotrifluoride (5.05 g, 22.4 mmol), 4-(dimethylamino)benzylamine dihydrochloride (5.0 g, 22.4 mmol), potassium carbonate (9.29 g, 76.2 mmol) and dimethylformamide (60 ml) was stirred at room temperature for 3 days. Water (60 ml) was added and the mixture was stirred for 0.5 h followed by filtration. The crystalline product was triturated with petroleum ether. Yield 6.08 g, 80%. M.p. 158-160° C.

reactant | 4-chloro-3-nitrobenzotrifluoride | 22.4 mmol, 5.05 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | 4-(dimethylamino)benzylamine dihydrochloride | 22.4 mmol, 5.0 g | Cl.Cl.CN(C1=CC=C(CN)C=C1)C
reactant | potassium carbonate | 76.2 mmol, 9.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | Water | 60 ml | O | H2O
product | N-(4-Dimethylaminobenzyl)-2-nitro-4-trifluoromethylaniline | CN(C1=CC=C(CNC2=C(C=C(C=C2)C(F)(F)F)[N+](=O)[O-])C=C1)C | C16H16F3N3O2
